US07598423B2
Synthesis of 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ethyl}-benzonitrile
Add 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-vinyl}-benzonitrile (0.105 g, 0.255 mmol), ethyl acetate (50 ml) and PtO2 (0.010 g) to a Parr pressure vessel. Purge the reaction vessel with nitrogen, pressurize the reaction mixture with hydrogen (400 KPa), seal the vessel and agitate the reaction at ambient temperature. Continue the reaction for 2.5 hours. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the platinum catalyst. Add the filtrate and PtO2 (0.019 g) to a Parr pressure vessel. Purge the reaction vessel with nitrogen, pressurize the reaction mixture with hydrogen (400 KPa), seal the vessel and agitate the reaction at ambient temperature. Continue the reaction for 6 hours. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the platinum catalyst and remove the solvent under vacuum. Add the concentrate, ethyl acetate (50 ml) and PtO2 (0.022 g) to a Parr pressure vessel. Purge the reaction vessel with nitrogen, pressurize the reaction mixture with hydrogen (400 KPa), seal the vessel and agitate the reaction at ambient temperature. Continue the reaction for 18 hours. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the platinum catalyst and remove the solvent under vacuum. Add the concentrate, ethyl acetate (150 ml), Pt catalyst from previous filtrations and PtO2 (0.105 g) to a Parr pressure vessel. Purge the reaction vessel with nitrogen, pressurize the reaction mixture with hydrogen (400 KPa), seal the vessel and agitate the reaction at ambient temperature. Continue the reaction for 22.5 hours. Vent the excess hydrogen from the vessel and purge the vessel with nitrogen. Filter the reaction mixture to remove the platinum catalyst. The mixture is filtered and concentrated to give 25 mg, 25%, as a film. LCMS M−1 412.

reactant | 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-vinyl}-benzonitrile | 0.255 mmol, 0.105 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(=C)C=2C=C(C#N)C=CC2)C=C1)CCC)O | C27H25NO3
catalyst | PtO2 | 0.010 g | O=[Pt]=O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ethyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C)C=2C=C(C#N)C=CC2)C=C1)CCC)O | C27H27NO3
